US08440689B2
D. (R)-2-(2-(2,4-Dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-N,4-dimethylpentanamide
A solution of (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid (48 mg, 0.094 mmol), methylamine hydrochloride (31.7 mg, 0.469 mmol) and DIPEA (49.2 μL, 0.281 mmol) in DMF (1 mL) was stirred at RT for 10 min. HATU (71.4 mg, 0.188 mmol) was added and the mixture was stirred at RT for 1 h, after which HPLC showed about 80% starting material remained. Additional methylamine (58.4 μL, 0.469 mmol, 33% in EtOH) was added, which resulted in little conversion of the starting material. The solvent was stripped off and the residue was dissolved in DMF (1 mL). To this solution was added EDCI hydrochloride (54.0 mg, 0.281 mmol), HOBT monohydrate (43.1 mg, 0.281 mmol), and methylamine hydrochloride (31.7 mg, 0.469 mmol). The reaction mixture was heated to 60° C. for 4 h. HPLC subsequently showed the reaction mixture contained 95% of desired product. The reaction mixture was allowed to cool to RT. Water (50 mL) was added and the mixture was extracted with DCM (3×50 mL). The organic layers were collected, dried over Na2SO4, filtered, and the solvent was stripped to dryness via rotary evaporation to yield the title compound, which was used without further purification. [M+H] calc'd for C27H33FN6O4, 525. found, 525.

reactant | (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid | 0.094 mmol, 48 mg | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@@H](C(=O)O)CC(C)C)C=2C=NN(C2)C)=O)C=CC(=C1)OC | C26H30FN5O5
reactant | methylamine hydrochloride | 0.469 mmol, 31.7 mg | Cl.CN
reactant | DIPEA | 0.281 mmol, 49.2 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.188 mmol, 71.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamine | 0.469 mmol, 58.4 μL | CN | CH5N
reactant | EDCI hydrochloride | 0.281 mmol, 54.0 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT monohydrate | 0.281 mmol, 43.1 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | methylamine hydrochloride | 0.469 mmol, 31.7 mg | Cl.CN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-2-(2-(2,4-Dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-N,4-dimethylpentanamide | 95% | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@@H](C(=O)NC)CC(C)C)C=2C=NN(C2)C)=O)C=CC(=C1)OC | C27H33FN6O4
